US03947470
A mixture of 23.3 g. (0.1 mol.) of α-bromo-p-chloroacetophenone, 10.0 g. (0.1 mol.) of phenol and 14.5 g. (0.1 mol.) of potassium carbonate in 65 ml. of dry acetone is refluxed for 12 hours. The reaction mixture is cooled, poured into 500 ml. of water and the precipitate formed is collected by filtration and recrystallized from ethanol to give α-phenoxy-p-chloroacetophenone.

reactant | α-bromo-p-chloroacetophenone | 0.1 mol | BrCC(=O)C1=CC=C(C=C1)Cl | C8H6BrClO
reactant | phenol | 0.1 mol | C1(=CC=CC=C1)O | C6H6O
reactant | potassium carbonate | 0.1 mol | C([O-])([O-])=O.[K+].[K+]
reactant | acetone | CC(=O)C | C3H6O
solvent | water | O | H2O
product | α-phenoxy-p-chloroacetophenone | O(C1=CC=CC=C1)CC(=O)C1=CC=C(C=C1)Cl | C14H11ClO2
